US06908916B2
[5-(4-Dimethylamino-piperidin-1-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine
Sodium cyanoborohydride (5 mg, 2 equiv.) was added to a solution of [5-(4-amino-piperidin-1-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine (20 mg, 0.042 mmole), acetic acid (3 uL), and 37% formaldehyde (7 uL, 2 equiv.) in DCM (0.3 ml) at 0° C. After 0.5 h, the reaction was removed from the ice-bath and, after an additional 4 h, was diluted with DCM and made alkaline with saturated NaCO3 solution. The organic layer was dried (Na2SO4) and the solvent was removed. The title compound (4 mg, 8%) was isolated by preparative HPLC. MS: 499 (M+H)+; HPLC Ret Time: 1.04 min (YMC ODS-A C18 S7 3.0×50 mm column, 2 min gradient, 5 ml/min).

reactant | Sodium cyanoborohydride | 5 mg, 2 equiv. | C(#N)[BH3-].[Na+]
reactant | [5-(4-amino-piperidin-1-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine | 0.042 mmole, 20 mg | NC1CCN(CC1)CC=1C=CN2N=CN=C(C21)NC=2C=C1C=NN(C1=CC2)CC2=CC(=CC=C2)F | C26H27FN8
reactant | acetic acid | 3 uL | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 7 uL, 2 equiv. | C=O | CH2O
solvent | DCM | 0.3 ml | C(Cl)Cl | CH2Cl2
product | [5-(4-Dimethylamino-piperidin-1-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine | 4 mg, 8% | CN(C1CCN(CC1)CC=1C=CN2N=CN=C(C21)NC=2C=C1C=NN(C1=CC2)CC2=CC(=CC=C2)F)C | C28H31FN8
